US04220761
Conc.hydrochloric acid (1.82 g) was added to a suspension of 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid (syn isomer, 3.9 g) in methanol (60 ml), and the mixture was stirred at room temperature for 2 hrs. After evaporation of the solvent under reduced pressure, methanol was added to the residue and evaporated again. The residue was washed with diethyl ether and dried to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 3.0 g).

reactant | hydrochloric acid | 1.82 g | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-t-butoxycarbonylaminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid | 3.9 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CNC(=O)OC(C)(C)C)C(=O)O)C1=O)=NOC | C23H26N8O8S4
solvent | methanol | 60 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(5-aminomethyl-1,3,4-thiadiazol-2-ylthiomethyl)-3-cephem-4-carboxylic acid dihydrochloride | 3.0 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)CN)C(=O)O)C1=O)=NOC | InChI=1S/C17H18N8O5S4.2ClH/c1-30-24-9(7-5-32-16(19)20-7)12(26)21-10-13(27)25-11(15(28)29)6(3-31-14(10)25)4-33-17-23-22-8(2-18)34-17;;/h5,10,14H,2-4,18H2,1H3,(H2,19,20)(H,21,26)(H,28,29);2*1H/t10?,14-;;/m1../s1
